US08304419B2
4-chloro-N-({4-chloro-3-[(3-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide
The previously described 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}benzonitrile (0.28 mmol) and 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (0.055 g, 0.20 mmol) were employed in a similar process described herein to prepare the title compound (0.056 g, 69%) as a white solid after deprotection and purification by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.73 (s, 1H) 7.42-7.55 (m, 2H) 7.29-7.42 (m, 2H) 7.17-7.27 (m, 2H) 4.65 (s, 2H). ES-LCMS: m/z 405.0, 407.0 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}benzonitrile | 0.28 mmol | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=CC1)F | C14H10ClFN2O
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.20 mmol, 0.055 g | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
product | 4-chloro-N-({4-chloro-3-[(3-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.056 g, 69% | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC=C1)C#N)F | C18H11Cl2FN4O2
